US07445825B2
1-(7-Methoxy-fluoren-2-yl)-ethanone is prepared by the acylation of fluoren-2-yl-methyl ether with acetyl chloride/AlCl3 according to Kajigaeshi, et al., Bull. Chem. Soc. Jpn., 52, 3569-3572 (1979) or Gray et al, J. Chem Soc., 1955; 2686-2688, both of which are incorporated herein by reference.

reactant | fluoren-2-yl-methyl ether | C1=C(C=CC=2C3=CC=CC=C3CC12)OC | C14H12O
reactant | acetyl chloride AlCl3 | C(C)(=O)Cl.[Al+3].[Cl-].[Cl-].[Cl-]
product | 1-(7-Methoxy-fluoren-2-yl)-ethanone | COC1=CC=C2C=3C=CC(=CC3CC2=C1)C(C)=O | C16H14O2
